US05442060
Then, a mixture of 1.01 g (3.14 mmol) of N-(2, 6-diisopropylbenzyl) phthalimide, 0.3 ml of hydrazine hydrate and 15 ml of methanol was refluxed with heating for 3.5 hours. The reaction mixture was concentrated in vacuo, mixed with 20 ml of water and 40 ml of methylene chloride, and made alkaline with aqueous sodium hydroxide. The organic layer was separated, washed with dilute aqueous sodium hydroxide and water, dried over anhydrous magnesium sulfate and the solvent evaporated in vacuo to give 0.53 g of 2, 6-diisopropylbenzylamine as an oil.

reactant | N-(2, 6-diisopropylbenzyl) phthalimide | 3.14 mmol, 1.01 g | C(C)(C)C1=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C(=CC=C1)C(C)C | C21H23NO2
reactant | hydrazine hydrate | 0.3 ml | O.NN
solvent | methanol | 15 ml | CO | CH4O
product | 2, 6-diisopropylbenzylamine | 0.53 g | C(C)(C)C1=C(CN)C(=CC=C1)C(C)C | C13H21N
